US04200761
Furthermore, the final compound I can be obtained by reacting 4-[(2-aminoethyl)-thiomethyl]-5-methyl imidazole with N-cyano-N',S-dimethylisothiourea or with dimethylcyanodithioimido carbonate to form N-cyano-N'-{2-[(5-methylimidazole-4-yl)-methylthio]-ethyl}-S-methylisothiourea, which reacts with methylamine, thus yielding the final compound I.

reactant | 4-[(2-aminoethyl)-thiomethyl]-5-methyl imidazole | NCCSCC=1N=CNC1C | C7H13N3S
reactant | N-cyano-N',S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
product | N-cyano-N'-{2-[(5-methylimidazole-4-yl)-methylthio]-ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1N=CNC1C | C10H15N5S2
